US07589206B2
(f) Methyl 4-chloro-1,2-dimethyl-1H-pyrrolo[3,2-c]pyridine-7-carboxylate
A solution of methyl 1,2-dimethyl-4-oxo-4,5-dihydro-1H-pyrrolo[3,2-c]pyridine-7-carboxylate (1.311 g) in phosphorus oxychloride (7 ml) was heated under reflux for four hours, then evaporated under reduced pressure. The residual liquid was added to a mixture of ethyl acetate and saturated aqueous sodium bicarbonate. The aqueous layer was extracted with a further portion of ethyl acetate. The combined organic extracts were washed with saturated aqueous sodium bicarbonate and then water. After filtering the water and ethyl acetate mixture, the organic phase washed with brine, dried (MgSO4) and evaporated. Purification by chromatography on silica gel (ethyl acetate/toluene) afforded the title compound as a pale cream solid 1.027 g.

reactant | methyl 1,2-dimethyl-4-oxo-4,5-dihydro-1H-pyrrolo[3,2-c]pyridine-7-carboxylate | 1.311 g | CN1C(=CC=2C(NC=C(C21)C(=O)OC)=O)C | C11H12N2O3
reactant | phosphorus oxychloride | 7 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | Methyl 4-chloro-1,2-dimethyl-1H-pyrrolo[3,2-c]pyridine-7-carboxylate | 1.027 g | ClC1=NC=C(C2=C1C=C(N2C)C)C(=O)OC | C11H11ClN2O2
